US08114874B2
1-(Bromomethyl)-4-nitro-2-(trifluoromethyl)benzene:
A suspension of 2-methyl-5-nitrobenzotrifluoride (3.90 g, 19 mmol), N-bromosuccinimide (NBS, 3.56 g, 20 mmol), 2,2′-azobis(2-methylpropionitrile) (AIBN, 94 mg, 0.6 mmol) in CCl4 (40 mL) was refluxed under N2 for 16 h. HPLC indicated ca. 50% conversion. More NBS (10 mmol) and AIBN (0.6 mmol) was added, and the mixture was refluxed for another 14 h. HPLC indicated ca. 80% conversion. The reaction mixture was cooled down, and the solid was filtered off and washed with EtOAc. The combined filtrate was washed with aq. NaHCO3, dried over Na2SO4, filtered, concentrated on rotovap and further dried under vacuum. 1H NMR shows the ratio of desired product to unreacted 2-methyl-5-nitrobenzotrifluoride is 75:25, This material was not purified but used directly in the next step.

reactant | 2-methyl-5-nitrobenzotrifluoride | 19 mmol, 3.90 g | CC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H6F3NO2
reactant | N-bromosuccinimide | 20 mmol, 3.56 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 0.6 mmol, 94 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | NBS | 10 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.6 mmol | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 40 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(Bromomethyl)-4-nitro-2-(trifluoromethyl)benzene | BrCC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C8H5BrF3NO2
